US07102042B2
Preparation of 9,9-di-n-octylfluorene
The reaction was run in a 250 ml flask equipped with an electric stirrer, thermowell, and nitrogen pad. It was loaded at room temperature with 25 g (0.15 moles) fluorene, 49 g (0.327 moles) 1-chlorooactane, 2.9 g of tricaprylylmethylammonium chloride (0.007 moles), and 163.4 g (2.25 moles) 55% NaOH. No exotherm was observed. It was heated at 50° C. until reaching 99+% conversion, approximately 23 hours. While maintaining at 50° C., 80 ml of water was added. The organic phase was extracted with 1×50 ml 3.5% HCl (acid wash caused color change from dark to orange). The resulting organic phase weighed 65.4 g and had an area % GC analysis for the dialkylated product of 87%. The crude was directly forwarded to the bromination reaction. Based on the yield of the bromination step, the yield in the PTC alkylation was over 86%.

reactant | fluorene | 0.15 moles, 25 g | C1=CC=CC=2C3=CC=CC=C3CC12 | C13H10
reactant | tricaprylylmethylammonium chloride | 0.007 moles, 2.9 g | [Cl-].C(CCCCCCC)(=O)C(C(CCCCCCC)=O)(C(CCCCCCC)=O)[NH3+]
reactant | NaOH | 2.25 moles, 163.4 g | [OH-].[Na+]
solvent | water | 80 ml | O | H2O
product | 9,9-di-n-octylfluorene | C(CCCCCCC)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCCCCC | C29H42
